US07985753B2
(6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(3,4-dihydro-1H-isoquinolin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1,2,3,4-Tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-chloro-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | ClC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4ClN3O2
reactant | 1,2,3,4-Tetrahydro-isoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
product | (6-Chloro-pyrazolo[1,5-a]pyrimidin-2-yl)-(3,4-dihydro-1H-isoquinolin-2-yl)-methanone | ClC=1C=NC=2N(C1)N=C(C2)C(=O)N2CC1=CC=CC=C1CC2 | C16H13ClN4O
